US07749961B2
2-Amino-3-nitrophenol 2B1 (5 g; 32.4 mmol) was dissolved in H2O (29.5 mL) and 1,4-dioxane (14.7 mL). The mixture was heated to reflux and hydrobromic acid (48%; 16.7 mL; 147 mmol) was added dropwise over a period of 20 min. Upon completion of the addition, the reflux was maintained an additional 15 min. The reaction was cooled to 0° C. (ice bath), and sodium nitrite (2.23 g; 32.3 mmol) in H2O (20 mL) was added over a period of 30 min. The stirring was continued for 15 min. at 0° C., the mixture transferred to a jacketed dropping funnel (0° C.) and added dropwise to a stirred mixture of Cu(I)Br (5.34 g; 37.2 mmol) in H2O (29.5 mL) and HBr (48%; 16.7 mL; 147 mmol) at 0° C. The reaction was stirred for 15 min. at 0° C., warmed to 60° C., stirred for an additional 15 min., cooled to room temperature, and left to stir overnight. The reaction mixture was transferred to a separatory funnel and extracted with ether (3×150 mL). The organic layers were combined, washed with brine (1×), dried (Na2SO4), filtered and concentrated to afford the crude product (7.99 g) as a red-brown oil. The crude material was purified by flash column chromatography (1:25 ultra pure silica gel, 230-400 mesh, 40-60 mm, 60 angstroms; CH2Cl2 as the solvent) to afford pure 2-bromo-3-nitro-phenol 2B2 (45%; 3.16 g) as an orange-brown solid.

reactant | 2-Amino-3-nitrophenol | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | hydrobromic acid | 147 mmol, 16.7 mL | Br | BrH
reactant | sodium nitrite | 32.3 mmol, 2.23 g | N(=O)[O-].[Na+]
reactant | HBr | 147 mmol, 16.7 mL | Br | BrH
solvent | H2O | 29.5 mL | O | H2O
solvent | 1,4-dioxane | 14.7 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | H2O | 29.5 mL | O | H2O
product | 2-bromo-3-nitro-phenol | BrC1=C(C=CC=C1[N+](=O)[O-])O | C6H4BrNO3
